US08236826B2
Production of N-{6-[4-(4-thiazole-2-ylmethylpiperazine-1-carbonyl)phenoxy]pyridin-3-yl}-4-trifluoromethyl-benzamide
To a suspension of N-{6-[4-(piperazine-1-carbonyl)phenoxy]pyridin-3-yl}-4-trifluoromethyl-benzamide dihydrochloride (400 mg, 0.74 mmol) in 1,2-dichloroethane (20 mL) were added 2-formylthiazole (125 mg, 1.10 mmol) and triethylamine (0.21 mL, 1.50 mmol). After the resulting solution was stirred at room temperature for 30 minutes, sodium triacetyloxy borohydride (312 mg, 1.47 mmol) was added under ice cooling. The reaction mixture was stirred at the same temperature for 30 minutes and at room temperature for 1 hour. Acetic acid (0.085 mL, 1.48 mmol) was added to the reaction mixture, and stirred at room temperature for 17 hours. The reaction mixture was poured into ice water, and extracted with chloroform. The chloroform layer was washed with a saturated sodium bicarbonate solution and brine, and dried over anhydrous magnesium sulfate. A significant part of the solvent was evaporated. The white precipitate was then filtered off and washed with ethyl acetate, to thereby yield 293 mg of the title compound.

reactant | N-{6-[4-(piperazine-1-carbonyl)phenoxy]pyridin-3-yl}-4-trifluoromethyl-benzamide dihydrochloride | 0.74 mmol, 400 mg | Cl.Cl.N1(CCNCC1)C(=O)C1=CC=C(OC2=CC=C(C=N2)NC(C2=CC=C(C=C2)C(F)(F)F)=O)C=C1
reactant | 2-formylthiazole | 1.10 mmol, 125 mg | C(=O)C=1SC=CN1 | C4H3NOS
reactant | triethylamine | 1.50 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | sodium triacetyloxy borohydride | 1.47 mmol, 312 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Acetic acid | 1.48 mmol, 0.085 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | N-{6-[4-(4-thiazole-2-ylmethylpiperazine-1-carbonyl)phenoxy]pyridin-3-yl}-4-trifluoromethyl-benzamide | S1C(=NC=C1)CN1CCN(CC1)C(=O)C1=CC=C(OC2=CC=C(C=N2)NC(C2=CC=C(C=C2)C(F)(F)F)=O)C=C1 | C28H24F3N5O3S
